US09315458B2
D) 5-bromo-3-chloro-2-hydroxy-4-methoxybenzoic acid
To a solution of 3-chloro-2-hydroxy-4-methoxybenzoic acid (11.1 g) in acetic acid (275 mL) was added bromine (8.79 g) at room temperature, and the mixture was stirred for 16 hr. To the reaction mixture was added water, and the precipitate was collected by filtration. The precipitate was washed with water, and dissolved in ethyl acetate, and the solution was washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (10.4 g).

reactant | 3-chloro-2-hydroxy-4-methoxybenzoic acid | 11.1 g | ClC=1C(=C(C(=O)O)C=CC1OC)O | C8H7ClO4
reactant | bromine | 8.79 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 275 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-3-chloro-2-hydroxy-4-methoxybenzoic acid | 10.4 g | BrC=1C(=C(C(=C(C(=O)O)C1)O)Cl)OC | C8H6BrClO4
